US07094780B1
(a) Synthesis of 1-(5-Benzyl-5-azaspiro[2.4]hept-7-yl)ethanone
A solution (−78° C.) of 5-benzyl-5-azaspiro[2.4]heptane-7-carboxylic acid ethyl ester (Example A1a, 8.15 g, 31.4 mmol) in diethyl ether (200 mL) under a nitrogen atmosphere is treated with methyllithium (1.4 M in diethyl ether, 22.4 mL, 31.4 mmol) over a period of 10 minutes. After 1 hour, reaction mixture is warmed to −10° C. and quenched with saturated aqueous ammonium chloride. The mixture is poured into a separatory funnel and the organic layer is washed with saturated aqueous ammonium chloride, water, and brine. The organic layer is then dried with MgSO4, filtered, and the filtrate concentrated. The resulting residue is purified via flash column chromatography (1% triethylamine/7% isopropanol/92% CH2Cl2) to afford the title compound (3.93 g). MS CI: m/z 230 (MH+).

reactant | 5-benzyl-5-azaspiro[2.4]heptane-7-carboxylic acid ethyl ester | 31.4 mmol, 8.15 g | C(C)OC(=O)C1CN(CC12CC2)CC2=CC=CC=C2 | C16H21NO2
reactant | methyllithium | 31.4 mmol, 1.4 M, 22.4 mL | C[Li]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-(5-Benzyl-5-azaspiro[2.4]hept-7-yl)ethanone | 3.93 g | C(C1=CC=CC=C1)N1CC2(CC2)C(C1)C(C)=O | C15H19NO
